US04267174
1-(2-Benzofuroyl)-2-cyanoaziridine.
This compound is obtained in a yield of 1.3 g., analogously to Example 75, from 1.8 g. benzofuran-2-carbonyl chloride and 0.68 g. 2-cyanoaziridine. It has a melting point of 92°-94° C.

reactant | benzofuran-2-carbonyl chloride | O1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClO2
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
product | 1-(2-Benzofuroyl)-2-cyanoaziridine | O1C(=CC2=C1C=CC=C2)C(=O)N2C(C2)C#N | C12H8N2O2
